US07645789B2
tert-Butyl 2-(2-(ethoxycarbonyl)propan-2-yl)-1H-indole-1-carboxylate (22.9 g, 69.1 mmol) was dissolved in dichloromethane (200 mL) before TFA (70 mL) was added. The mixture was stirred for 5 h at room temperature. The mixture was evaporated to dryness, taken up in dichloromethane and washed with saturated sodium bicarbonate solution, water, and brine. The product was purified by column chromatography on silica gel (0-20% EtOAc in hexane) to give ethyl 2-(1H-indol-2-yl)-2-methylpropanoate (12.5 g, 78%).

reactant | tert-Butyl 2-(2-(ethoxycarbonyl)propan-2-yl)-1H-indole-1-carboxylate | 69.1 mmol, 22.9 g | C(C)OC(=O)C(C)(C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C19H25NO4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | TFA | 70 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | ethyl 2-(1H-indol-2-yl)-2-methylpropanoate | 12.5 g, 78% | N1C(=CC2=CC=CC=C12)C(C(=O)OCC)(C)C | C14H17NO2
